US08227504B2
N-{2-Methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-4-(3-methyl-5-oxo-4,5-dihydro-pyrazol-1-yl)-benzamide
The title compound was prepared in a manner substantially the same as Example 1 by coupling 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine with 4-(3-methyl-5-oxo-4,5-dihydro-pyrazol-1-yl)-benzoic acid. MS: 474.6 (M+H).

reactant | 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)N | C17H27N3
reactant | 4-(3-methyl-5-oxo-4,5-dihydro-pyrazol-1-yl)-benzoic acid | CC1=NN(C(C1)=O)C1=CC=C(C(=O)O)C=C1 | C11H10N2O3
product | N-{2-Methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-4-(3-methyl-5-oxo-4,5-dihydro-pyrazol-1-yl)-benzamide | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)NC(C1=CC=C(C=C1)N1N=C(CC1=O)C)=O | C28H35N5O2
